US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(pyrazol-1-yloxy)-ethyl]-phenyl ester
The title compound was prepared in 62% yield as an oil using methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester and 1-hydroxypyrazole.

reactant | methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester | OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H17NO3
reactant | 1-hydroxypyrazole | ON1N=CC=C1 | C3H4N2O
product | Methyl-phenyl-carbamic acid 4-[2-(pyrazol-1-yloxy)-ethyl]-phenyl ester | 62% yield | N1(N=CC=C1)OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C19H19N3O3
